US06667316B1
4-[Bis(methylsulfonyl)amino]-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methyl-sulfonyl)ethyl]isoindoline-1,3-dione
Methanesulfonyl chloride (0.3 g, 2.62 mmol) was added to a stirred suspension of 4-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)-ethyl]isoindoline-1,3-dione (0.55 g, 1.31 mmol) and triethylamine (0.4 g, 3.93 mmol) in methylene chloride (60 mL) and the resulting mixture stirred for 24 hours. The mixture was then washed with sat. Sodium bicarbonate (25 mL), 1N hydrogen chloride (25 mL), H2O (25 mL), brine (25 mL) and dried over magnesium sulfate. The solvent was removed in vacuo. The residue was slurried in methanol:tetrahydrofuran (2:1) to give after isolation by filtration 4-[bis(methylsulfonyl)amino]-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]isoindoline-1,3-dione (0.53 g, 70%) as a white solid: mp 277-279° C.; 1H NMR (DMSO-d6) δ8.05-7.95 (m, 3H), 7.11-6.92 (m, 3H), 5.78-5.74 (dd, J=5.5, 9.1 Hz, 1H), 4.31-4.22 (m, 2H), 3.99 (q, J=6.9 Hz, 2H), 3.73 (s, 3H), 3.55 (s, 6H), 2.95 (s, 3H), 1.31 (t, J=7.0 Hz, 3H); 13C NMR (DMSO-d6) δ166.11, 165.35, 148.96, 147.88, 138.63, 136.05, 132.60, 129.64, 129.31, 129.27, 125.26, 119.89, 112.33, 111.76, 63.73, 55.46, 53.38, 47.92, 43.50, 43.44, 41.15, 14.61; Anal. Calcd. for C22H26N2O10S3: C, 45.95; H, 4.56; N, 4.87; S, 16.74. Found: C, 45.90; H, 4.40; N, 4.75; S, 16.55.

reactant | Methanesulfonyl chloride | 2.62 mmol, 0.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)-ethyl]isoindoline-1,3-dione | 1.31 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | C20H22N2O6S
reactant | triethylamine | 3.93 mmol, 0.4 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 4-[Bis(methylsulfonyl)amino]-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methyl-sulfonyl)ethyl]isoindoline-1,3-dione | CS(=O)(=O)N(C1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O)S(=O)(=O)C | C22H26N2O10S3
